US06306860B1
5-[N-[(1R)-2-hydroxy-1-isopropylethyl]carbamoyl]-2-[1-[3-(isopropylamino)-2-pyridyl]piperazin-4-yl-carbonyl]pyridine
By the same procedure as described in the example 1, synthesis was carried out starting with 6-[1-[3-(isopropylamino)-2-pyridyl]piperazin-4-yl-carbonyl]nicotinic acid and using (R)-(−)-2-amino-3-methyl-1-butanol. Then, the product was recrystallized with acetone and hexane to give a desired compound.

reactant | 6-[1-[3-(isopropylamino)-2-pyridyl]piperazin-4-yl-carbonyl]nicotinic acid | C(C)(C)NC=1C(=NC=CC1)N1CCN(CC1)C(=O)C1=NC=C(C(=O)O)C=C1 | C19H23N5O3
reactant | (R)-(−)-2-amino-3-methyl-1-butanol | N[C@@H](CO)C(C)C | C5H13NO
product | 5-[N-[(1R)-2-hydroxy-1-isopropylethyl]carbamoyl]-2-[1-[3-(isopropylamino)-2-pyridyl]piperazin-4-yl-carbonyl]pyridine | Yield: 73% | OC[C@@H](C(C)C)NC(=O)C=1C=CC(=NC1)C(=O)N1CCN(CC1)C1=NC=CC=C1NC(C)C | C24H34N6O3
